US04478832
Preparation of N-methoxy-4-cyanobenzhydroxamic acid
A mixture of 29.4 g (0.350 mole) methoxyaminehydrochloride and 50 g (0.36 mole) potassium carbonate in about 200 mls was stirred, maintaining the temperature below -5° C. until the reactants were dissolved. To that solution, 50 g (0.302 mole) 4-cyano-benzoylchloride were dropped in slowly, maintaining the temperature of the reaction mixture below 0° C. during the addition. The reaction mixture was stirred overnight. The reaction mixture was suction-filtered. The residue, containing the crude product was dried in a heated vacuum oven and then washed with hexane (about 100 mls) and ether (about 2-3 mls) to give the product an off-white solid.

reactant | methoxyaminehydrochloride | 0.350 mole, 29.4 g | Cl.CON
reactant | potassium carbonate | 0.36 mole, 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-cyano-benzoylchloride | 0.302 mole, 50 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | N-methoxy-4-cyanobenzhydroxamic acid | CON(O)C(C1=CC=C(C=C1)C#N)=O | C9H8N2O3
